US04147528
To 5 ml of 1.0 N aqueous sodium hydroxide solution (5.0 mmoles) diluted with 50 ml of methanol is added one equivalent of 1-(4-chlorophenyl)-1,6-dihydro-4-methyl-6-oxopyrimidine-5-carboxylic acid prepared as in Example 2. After stirring for a short time the resulting slurry (pH 7-8) is evaporated in vacuo. The solid residue is slurried in ether and isolated by vacuum filtration. Drying gives a quantitative yield of sodium 1-(4-chlorophenyl)-1,6-dihydro-4-methyl-6-oxopyrimidine-5-carboxylate, m.p. >250° C.

reactant | sodium hydroxide | 5.0 mmoles, 1.0 N, 5 ml | [OH-].[Na+]
reactant | 1-(4-chlorophenyl)-1,6-dihydro-4-methyl-6-oxopyrimidine-5-carboxylic acid | one equivalent | ClC1=CC=C(C=C1)N1C=NC(=C(C1=O)C(=O)O)C | C12H9ClN2O3
solvent | methanol | 50 ml | CO | CH4O
product | sodium 1-(4-chlorophenyl)-1,6-dihydro-4-methyl-6-oxopyrimidine-5-carboxylate | quantitative yield | ClC1=CC=C(C=C1)N1C=NC(=C(C1=O)C(=O)[O-])C.[Na+] | InChI=1S/C12H9ClN2O3.Na/c1-7-10(12(17)18)11(16)15(6-14-7)9-4-2-8(13)3-5-9;/h2-6H,1H3,(H,17,18);/q;+1/p-1
